US05998412
Tri-n-butylphosphine (0.37 ml, 1.5 mmol) was added to a solution of methyl 2-(R)-{[4-(4-bromophenyl)piperidine-1-sulfonyl]amino}-3-methylbutyrate (560 mg, 1.25 mmol), 3-pyridylcarbinol (0.15 ml, 1.5 mmol), and 1,1'-(azodicarbonyl)piperidine (377 mg, 1.5 mmol) in benzene (30 ml). After stirring at RT for 48 h, the reaction mixture was concentrated and the residue was triturated with ether (60 ml). After filtering off the solids, the ether layer was concentrated in vacuo and the residue was chromatographed (SiO2, 40% ethyl acetate/hexane) to give methyl 2-(R)-{(pyridin-3-ylmethyl)-[4-(4-bromophenyl)piperidine-1-sulfonyl]amino}-3-methylbutyrate as a colorless oil (41%).

reactant | Tri-n-butylphosphine | 1.5 mmol, 0.37 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl 2-(R)-{[4-(4-bromophenyl)piperidine-1-sulfonyl]amino}-3-methylbutyrate | 1.25 mmol, 560 mg | BrC1=CC=C(C=C1)C1CCN(CC1)S(=O)(=O)N[C@@H](C(=O)OC)C(C)C | C17H25BrN2O4S
reactant | 3-pyridylcarbinol | 1.5 mmol, 0.15 ml | N1=CC(=CC=C1)CO | C6H7NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-(R)-{(pyridin-3-ylmethyl)-[4-(4-bromophenyl)piperidine-1-sulfonyl]amino}-3-methylbutyrate | 41% | N1=CC(=CC=C1)CN([C@@H](C(=O)OC)C(C)C)S(=O)(=O)N1CCC(CC1)C1=CC=C(C=C1)Br | C23H30BrN3O4S
